US08357688B2
To a mixture of 125 mg of 4-oxo-1-propyl-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid, 73 mg of 1,2,3,4-tetrahydroisoquinoline, 0.26 mL of diisopropylethylamine, and 3 mL of N,N-dimethylformamide was added 262 mg of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, followed by stirring at room temperature overnight. To the reaction liquid was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=99/1 to 95/5). The obtained solid was washed with 2 mL of hot methanol to obtain 159 mg of 7-(3,4-dihydroisoquinolin-2(1H)-ylcarbonyl)-1-propyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one as a white solid.

reactant | 4-oxo-1-propyl-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid | 125 mg | O=C1C=2N(C3=CC=C(C=C3N1)C(=O)O)C(=NN2)CCC | C13H12N4O3
reactant | 1,2,3,4-tetrahydroisoquinoline | 73 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | diisopropylethylamine | 0.26 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 262 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 7-(3,4-dihydroisoquinolin-2(1H)-ylcarbonyl)-1-propyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 159 mg | C1N(CCC2=CC=CC=C12)C(=O)C=1C=C2NC(C=3N(C2=CC1)C(=NN3)CCC)=O | C22H21N5O2
